US05597823
3-Amino-2-carbomethoxy-6-cyano-benzthiophene
Nitroterephthalonitrile (5.0 g, 28.9 mmol), prepared by the method of Gorvin, U.S. Pat. No. 4,250,182, was treated with 1 equivalent methyl thioglycolate and 1 equivalent Na2CO3 in methanol by the prcx:edure described in Example 41A to yield the title compound (5.50 g, 82%). 1H NMR (300 MHz, DMSO) δ 8.50 (s, 1H), 8.32 (d, 1H), 7.80 (dd, 1H), 7.29 (br s, 2H), 3.81 (s, 3H). MS (DCI/NH3) m/e 250 (M+NH4)+.

reactant | Nitroterephthalonitrile | 28.9 mmol, 5.0 g | [N+](=O)([O-])C1=C(C#N)C=CC(=C1)C#N | C8H3N3O2
reactant | methyl thioglycolate | 1 equivalent | C(CS)(=O)OC | C3H6O2S
reactant | Na2CO3 | 1 equivalent | C(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | CO | CH4O
product | 3-Amino-2-carbomethoxy-6-cyano-benzthiophene | 5.50 g, 82% | NC1=C(SC2=C1C=CC(=C2)C#N)C(=O)OC | C11H8N2O2S
